US06667330B2
To a solution of 4-hydroxy-5-oxo-3-(2-furanylmethylsulfanyl)-2-[(2-furanylmethylsulfanyl)-methyl]-2,5-dihydrofuran-2-carboxylic acid ethyl ester (0.3 g, 0.73 mmol) in methylene chloride (25 mL) were added pyridine (0.19 mL, 2.36 mmol) and trimethylacetyl chloride (0.22 mL, 1.77 mmol, 2.4 eq) under argon atmosphere. The mixture was gently refluxed overnight under argon and then evaporated. The residue was purified by column chromatography eluted with a mixed solvent of hexane and ethyl acetate (4:1, v/v) affording 0.3181 g of 4-(2,2-dimethyl-propionyloxy)-3-(furan-2-ylmethylsulfanyl)-2-(furan-2-ylmethylsulfanylmethyl)-5-oxo-2,5-dihydro-furan-2-carboxylic acid ethyl ester as light yellow oil. 1H NMR (CDCl3, 300.16 MHz) δ (ppm): 7.40-7.37 (m, 2H), 6.35-6.25 (m, 4H), 4.35 (s, 2H), 4.33-4.22 (m, 2H), 3.90 (d, J=14.7 Hz, 1H), 3.80 (d, J=14.7 Hz, 1H), 3.29 (d, J=15.1 Hz, 1H), 2.97 (d, J=15.1 Hz, 1H), 1.37 (s, 9H) and 1.29 (t, J=7.1 Hz, 3H). 13C NMR (CDCl3, 75.48 MHz) δ (ppm): 174.35, 166.32, 163.84, 150.29, 148.27, 144.72, 143.10, 142.64, 136.15, 111.00, 110.47, 109.44, 108.98, 87.64, 63.40, 39.30, 36.15, 29.62, 28.02, 26.99 and 14.04. MS (ESI, rel. int.) m/z: 495 (M+H+, 25), 517 (M+Na+, 100).

reactant | 4-hydroxy-5-oxo-3-(2-furanylmethylsulfanyl)-2-[(2-furanylmethylsulfanyl)-methyl]-2,5-dihydrofuran-2-carboxylic acid ethyl ester | 0.73 mmol, 0.3 g | C(C)OC(=O)C1(OC(C(=C1SCC=1OC=CC1)O)=O)CSCC=1OC=CC1 | C18H18O7S2
reactant | pyridine | 2.36 mmol, 0.19 mL | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetyl chloride | 1.77 mmol, 0.22 mL, 2.4 eq | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dimethyl-propionyloxy)-3-(furan-2-ylmethylsulfanyl)-2-(furan-2-ylmethylsulfanylmethyl)-5-oxo-2,5-dihydro-furan-2-carboxylic acid ethyl ester | 0.3181 g | C(C)OC(=O)C1(OC(C(=C1SCC=1OC=CC1)OC(C(C)(C)C)=O)=O)CSCC=1OC=CC1 | C23H26O8S2
